US08470982B2
Preparation of 4-(1-Hydroxy-cyclopentyl)-benzonitrile (3i)
According to Example 2, the Grignard reagent 1C (freshly prepared via bromine-magnesium exchange[6] from 4-bromo-benzonitrile (400 mg, 2.20 mmol, 1.10 equiv) and i-PrMgCl.LiCl (1.00 M in THF; 2.16 mL, 2.16 mmol, 1.08 equiv) at −20° C.) was reacted with cyclopentanone (168 mg; 2.00 mmol) in the presence of LaCl3.2LiCl (0.33 M; 6.06 mL, 2.00 mmol, 1.00 equiv). The crude product was purified by flash column chromatography (silica; pentane:Et2O, 7:3) to give the desired product as a colorless oil (355 mg, 95%).

reactant | bromine magnesium | BrBr.[Mg]
reactant | 4-bromo-benzonitrile | 2.20 mmol, 400 mg, 1.10 equiv | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | i-PrMgCl | C(C)(C)[Mg]Cl
reactant | LiCl | 2.16 mmol, 1.00 M, 2.16 mL, 1.08 equiv | [Li+].[Cl-]
reactant | cyclopentanone | 2.00 mmol, 168 mg | C1(CCCC1)=O | C5H8O
product | 4-(1-Hydroxy-cyclopentyl)-benzonitrile | 355 mg, 95% | OC1(CCCC1)C1=CC=C(C#N)C=C1 | C12H13NO
